US07091214B2
tert-Butyl[4-(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-ylmethyl)benzyl]carbamate (1.15 g, 2.1 mmol), triphenylphosphine (0.005 g), pyridine-3-boronic acid 1,3-propanediol cyclic ester (0.365 g, 2.2 mmol), and n-propanol (3.67 mL) were combined. Aqueous sodium carbonate (2M, 1.12 mL) and water (0.6 mL) were added to the mixture and the flask was flushed with nitrogen. Palladium(II) acetate (0.0013 g) in toluene (0.200 mL) was added, and the flask was again flushed with nitrogen. The flask was sealed and heated in an oil bath at a temperature of 105° C. for 16 hours. The reaction was allowed to cool to room temperature and the mixture was diluted with dichloromethane and water. The layers were separated and the aqueous fraction was extracted with dichloromethane. The organic fractions were combined, washed sequentially with water and saturated aqueous sodium chloride, dried over sodium sulfate, filtered, and concentrated under reduced pressure. Purification of the residue by flash column chromatography eluting with a gradient of CMA/chloroform and subsequent recrystallization from acetonitrile yielded 0.725 g of tert-butyl{4-[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-ylmethyl]benzyl}carbamate as flocculent white crystals, m.p. 195.5–197.0° C.

reactant | tert-Butyl[4-(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-ylmethyl)benzyl]carbamate | 2.1 mmol, 1.15 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)CN1C(=NC=2C(=NC=3C=C(C=CC3C21)Br)N)COCC)=O | C26H30BrN5O3
reactant | pyridine-3-boronic acid 1,3-propanediol cyclic ester | 2.2 mmol, 0.365 g | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
reactant | n-propanol | 3.67 mL | C(CC)O | C3H8O
reactant | sodium carbonate | 2M, 1.12 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | triphenylphosphine | 0.005 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 0.6 mL | O | H2O
product | tert-butyl{4-[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-ylmethyl]benzyl}carbamate | 0.725 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)CN1C(=NC=2C(=NC=3C=C(C=CC3C21)C=2C=NC=CC2)N)COCC)=O | C31H34N6O3
